US05391570
(±)-[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]amine
LAH pellets (3.2 g, 84.3 mmole) were added slowly to a stirred solution of 3,4-dihydro-2H-1-benzopyran-2-carboxylic acid (15 g, 84.3 mmole) in THF (150 ml). After the vigorous reaction subsided, the mixture was refluxed for 1 hr and then cooled. To the hot mixture were added sequentially, H2O (3.2 ml), 15% NaOH (3.2 ml), and then H2O (12.8 ml). The mixture was filtered and the filter cake washed with THF. The THF filtrate was concentrated in vacuo, and Kugelrohr distilled to a clear oil (13.85 g, 100%). This alcohol intermediate was stirred in SOCl2 for 18 hr. The excess SOCl2 was removed in vacuo and the resulting dark oil was Kugelrohr distilled to a clear oil (8.65 g, 56.2%). This alkyl chloride intermediate was heated to 100° in DMF with NaN3 (4.32 g, 66 mmole) and KI (0.2 g) for 72 hr. The mixture was diluted with H2O (250 ml) and extracted with CH2Cl2 three times. The CH2Cl2 extracts were concentrated in vacuo. The residue was hydrogenated at 60 psi over 10% Pd/C (1 g) in ethanol and 37% HCl (10 ml) for 3 hr. H2O (20 ml) was added and the mixture was filtered. The ethanol was removed in vacuo and the aqueous residue was made basic with 10 N NaOH. The mixture was extracted three times with ethyl acetate (50 ml portions). The extracts were concentrated in vacuo and the tan oil was Kugelrohr distilled to a dear oil (6.35 g, 82.2%). The product was used without further purification.

reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3,4-dihydro-2H-1-benzopyran-2-carboxylic acid | 84.3 mmole, 15 g | O1C(CCC2=C1C=CC=C2)C(=O)O | C10H10O3
reactant | NaOH | 3.2 ml | [OH-].[Na+]
reactant | NaN3 | 66 mmole, 4.32 g | [N-]=[N+]=[N-].[Na+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | H2O | 250 ml | O | H2O
solvent | H2O | 12.8 ml | O | H2O
solvent | H2O | 3.2 ml | O | H2O
product | (±)-[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]amine | O1C(CCC2=C1C=CC=C2)CN | C10H13NO
